US08349880B2
N-(3-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-9-(4-(trifluoromethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine
A solution of 5-(5-chloro-1-(4-(trifluoromethoxy)phenyl)pentyl)-N-(3-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine (753 mg, 1.36 mmol), sodium iodide (1.02 g, 6.80 mmol), and diisopropylethylamine (1.19 mL, 6.80 mmol) in acetone (30 mL) was heated in a sealed vessel at 100° C. for 6 h. The reaction was concentrated in vacuo. The crude product was purified using silica gel column chromatography (50% EtOAc/chloroform) to afford 321 mg (44% yield) of the titled compound as a white solid. LC-MS (M+H)+ 518.3. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 8.02 (s, 1 H), 7.20 (s, 4 H), 6.90-6.96 (m, 2 H), 6.73 (s, 1 H), 4.17-4.34 (m, 3 H), 3.72 (s, 3 H), 2.47 (s, 3 H), 2.13-2.26 (m, 1 H), 2.05-2.13 (m, 1 H), 1.92-2.04 (m, 2 H), 1.82-1.92 (m, 2 H).

reactant | 5-(5-chloro-1-(4-(trifluoromethoxy)phenyl)pentyl)-N-(3-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-1H-1,2,4-triazol-3-amine | 1.36 mmol, 753 mg | ClCCCCC(C1=CC=C(C=C1)OC(F)(F)F)C1=NC(=NN1)NC1=CC(=C(C(=C1)OC)N1N=C(N=C1)C)F | C24H24ClF4N7O2
reactant | sodium iodide | 6.80 mmol, 1.02 g | [I-].[Na+]
reactant | diisopropylethylamine | 6.80 mmol, 1.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | N-(3-fluoro-5-methoxy-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)-9-(4-(trifluoromethoxy)phenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 321 mg, 44% yield | FC=1C=C(C=C(C1N1N=C(N=C1)C)OC)NC1=NN2C(C(CCCC2)C2=CC=C(C=C2)OC(F)(F)F)=N1 | C24H23F4N7O2
